US08084470B2
132 mg (0.81 mmol) of CDI were added to a solution of 250 mg (0.77 mmol) of 2-(2-(phenylsulfonyl)ethylthio)nicotinic acid in DCM (6 ml), and the mixture was stirred for 1 hour at RT. A solution of 93 mg (0.77 mmol) of N-benzyl-N-methylamine in DCM (6 ml) was then added, and stirring was continued for a further 16 h at RT. The reaction solution was then washed in each case three times with sat. aq. ammonium chloride solution and saturated aqueous NaHCO3 solution. The organic phase was dried over MgSO4, filtered and concentrated in vacuo. CC with the residue (DCM→DCM/MeOH 99.5:0.5) yielded 152 mg (0.36 mmol, 46%) of N-benzyl-N-methyl-2-(2-(phenylsulfonyl)ethylthio)nicotinamide.

reactant | CDI | 0.81 mmol, 132 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-(2-(phenylsulfonyl)ethylthio)nicotinic acid | 0.77 mmol, 250 mg | C1(=CC=CC=C1)S(=O)(=O)CCSC1=C(C(=O)O)C=CC=N1 | C14H13NO4S2
reactant | N-benzyl-N-methylamine | 0.77 mmol, 93 mg | C(C1=CC=CC=C1)NC | C8H11N
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
product | N-benzyl-N-methyl-2-(2-(phenylsulfonyl)ethylthio)nicotinamide | 0.36 mmol, 152 mg, 46% | C(C1=CC=CC=C1)N(C(C1=C(N=CC=C1)SCCS(=O)(=O)C1=CC=CC=C1)=O)C | C22H22N2O3S2
